* SKY130 Bandpass Filter — Iteration 2
* Architecture: Pseudo-resistor HPF + 4th-order Sallen-Key LPF
* Key fix: Use 10 MΩ resistors + pF caps to avoid opamp capacitive loading
* Cc = 50 pF for adequate phase margin
*
* Target: f_low < 1 Hz, f_high ~ 140 Hz, >20 dB at 250 Hz

.lib "/home/ubuntu/workspace/sky130_models/sky130.lib.spice" tt

.param vdd_val = 1.8
.param vcm_val = 0.9

**********************************************
* SUPPLY AND BIAS
**********************************************
Vdd vdd 0 {vdd_val}
Vss vss 0 0
Vcm vcm 0 {vcm_val}

* Bias: ~500 nA reference via R + diode NFET
Rbias vdd nbias 2.2Meg
Xbias_n nbias nbias vss vss sky130_fd_pr__nfet_01v8 w=2u l=4u

**********************************************
* TWO-STAGE MILLER OPAMP
**********************************************
* Stage 1: NMOS diff pair + PMOS mirror, Itail ~500 nA
* Stage 2: PMOS CS + NMOS current source, I ~1 µA
* Miller Cc = 50 pF for stability with pF-range capacitive loads
.subckt miller_opamp inp inn out vdd vss nbias
* PMOS mirror load
XM3 s1out s1mir vdd vdd sky130_fd_pr__pfet_01v8 w=4u l=2u
XM4 s1mir s1mir vdd vdd sky130_fd_pr__pfet_01v8 w=4u l=2u
* NMOS diff pair (inp = non-inverting, on output side)
XM1 s1out inp tail1 vss sky130_fd_pr__nfet_01v8 w=4u l=1u
XM2 s1mir inn tail1 vss sky130_fd_pr__nfet_01v8 w=4u l=1u
* Tail current ~500 nA
XM5 tail1 nbias vss vss sky130_fd_pr__nfet_01v8 w=2u l=4u
* Stage 2: PMOS CS driver
XM6 out s1out vdd vdd sky130_fd_pr__pfet_01v8 w=32u l=0.5u
* Stage 2 current source ~1 µA
XM7 out nbias vss vss sky130_fd_pr__nfet_01v8 w=4u l=2u
* Miller compensation
Cc s1out out 50p
.ends miller_opamp

**********************************************
* PSEUDO-RESISTOR
**********************************************
* Anti-parallel PMOS pair, min width, long channel
* Targeting ~3 GΩ for f_low ~ 1 Hz with C = 50 pF
.subckt pseudo_res a b vdd
Xpr1 a b b vdd sky130_fd_pr__pfet_01v8 w=0.42u l=15u
Xpr2 b a a vdd sky130_fd_pr__pfet_01v8 w=0.42u l=15u
.ends pseudo_res

**********************************************
* STAGE 1: HIGH-PASS FILTER (1st order)
**********************************************
* Capacitively-coupled with pseudo-resistor DC feedback, unity gain
C_in input hpf_in 50p ic=0
Xpr_fb hpf_in hpf_out vdd pseudo_res
C_fb hpf_in hpf_out 50p ic=0
Xamp1 vcm hpf_in hpf_out vdd vss nbias miller_opamp

**********************************************
* STAGE 2: 4th-order Sallen-Key Butterworth LPF
**********************************************
* Using R = 10 MΩ to keep caps in pF range (opamp-friendly)
*
* 4th-order Butterworth poles:
*   Section 1: Q = 0.5412, f0 = 140 Hz
*   Section 2: Q = 1.3066, f0 = 140 Hz
*
* Sallen-Key equal-R: Q = sqrt(C1/C2)/2, f0 = 1/(2*pi*R*sqrt(C1*C2))
*
* --- Section 1 (Q=0.5412) ---
* C1/C2 = (2*0.5412)^2 = 1.1714
* sqrt(C1*C2) = 1/(2*pi*10M*140) = 113.7 pF
* C1*C2 = 12926 pF^2
* C2 = sqrt(12926/1.1714) = 105.1 pF → 100 pF
* C1 = 1.1714 * 100 = 117.1 pF → 120 pF
* Recheck: f0 = 1/(2*pi*10M*sqrt(120p*100p)) = 1/(2*pi*10M*109.5p) = 145.3 Hz ✓

R_s1a hpf_out s1_mid 10Meg
R_s1b s1_mid s1_buf 10Meg
C_s1a s1_mid s1_out 120p
C_s1b s1_buf vcm 100p
Xamp2 s1_buf s1_out s1_out vdd vss nbias miller_opamp

* --- Section 2 (Q=1.3066) ---
* C1/C2 = (2*1.3066)^2 = 6.829
* C1*C2 = 12926 pF^2
* C2 = sqrt(12926/6.829) = 43.5 pF → 43 pF
* C1 = 6.829 * 43 = 293.6 pF → 300 pF
* Recheck: f0 = 1/(2*pi*10M*sqrt(300p*43p)) = 1/(2*pi*10M*113.6p) = 140.2 Hz ✓
* Q = sqrt(300/43)/2 = sqrt(6.977)/2 = 1.321 ≈ 1.3066 ✓

R_s2a s1_out s2_mid 10Meg
R_s2b s2_mid s2_buf 10Meg
C_s2a s2_mid s2_out 300p
C_s2b s2_buf vcm 43p
Xamp3 s2_buf s2_out s2_out vdd vss nbias miller_opamp

**********************************************
* OUTPUT
**********************************************
Rout s2_out output 100

**********************************************
* INPUT SOURCE
**********************************************
Vin input vcm dc 0 ac 1

.end
